US05498630
2-Chloro-6-[(1,1-dimethylethyl)methylamino]-N-ethyl-N-methylbenzamide
A solution of 1.3M s-BuLi in cyclohexane (3.7 mL, 4.8 mmol) was added dropwise to a dry-ice/acetone cooled solution of TMEDA (0.7 mL, 4.8 mmol) in THF (10 mL), followed by the dropwise addition of a solution of N-ethyl-N-methyl 2-(N-methyl-N-tert-butylamino)benzamide (1.0 g, 4.0 mmol) in THF (5 mL). The reaction mixture was briefly warmed to -30° C., then cooled to -78° C. and stirred for 15 min. A solution of hexachloroethane (2.8 g, 12.1 mmol) in THF (5 mL) was added. This mixture was stirred for 1 h at -78° C., then was warmed to -30° C., diluted with water, and extracted with EtOAc (2×). The combined organic extracts were dried (MgSO4), concentrated, and purified by HPLC with 1:4 EtOAc/cyclohexane to give 528 mg of the title compound as a yellow oil, a 46% yield.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 4.8 mmol, 3.7 mL | C1CCCCC1 | C6H12
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | TMEDA | 4.8 mmol, 0.7 mL | CN(C)CCN(C)C | C6H16N2
reactant | N-ethyl-N-methyl 2-(N-methyl-N-tert-butylamino)benzamide | 4.0 mmol, 1.0 g | C(C)N(C(C1=C(C=CC=C1)N(C(C)(C)C)C)=O)C | C15H24N2O
reactant | hexachloroethane | 12.1 mmol, 2.8 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Chloro-6-[(1,1-dimethylethyl)methylamino]-N-ethyl-N-methylbenzamide | 528 mg, 46% yield | ClC1=C(C(=O)N(C)CC)C(=CC=C1)N(C)C(C)(C)C | C15H23ClN2O
